US05658858
Sodium hydroxide solution (2M, 44.6 ml) was added dropwise during 5 minutes to a stirred solution of methyl 3,4-dichloro-2-(N-methyl-N-ethoxycarbonylamino)benzoate (9.1g) in methanol. After 0.5 hours the methanol was evaporated, the residue diluted (water), washed (ether), acidified with potassium bisulphate and extracted (ethyl acetate). The extract was dried (magnesium sulphate) and evaporated to give 3,4-dichloro-2-(N-methyl-ethoxycarbonylamino)benzoic acid (9.38 g) as a brown oil, NMR 1.2(m,3H), 3.1(s,3H), 4.0(m,2H), 7.4(m,1H), 7.9(m,1).

reactant | Sodium hydroxide | 2M, 44.6 ml | [OH-].[Na+]
reactant | methyl 3,4-dichloro-2-(N-methyl-N-ethoxycarbonylamino)benzoate | 9.1g | ClC=1C(=C(C(=O)OC)C=CC1Cl)N(C(=O)OCC)C | C12H13Cl2NO4
solvent | methanol | CO | CH4O
product | 3,4-dichloro-2-(N-methyl-ethoxycarbonylamino)benzoic acid | 9.38 g | ClC=1C(=C(C(=O)O)C=CC1Cl)N(C)C(=O)OCC | C11H11Cl2NO4
